US04621901
A mixture of 9.88 g of 4'-[trans-4-(4-pentenyl)cyclohexyl]-4-biphenylcarbonitrile, 735 ml of diethylene glycol and 79.9 g of potassium hydroxide was heated to 150°-160° C. while stirring and gassing with nitrogen and held at this temperature for 1 hour. Subsequently, the reaction mixture was cooled to room temperature and treated with 230 ml of semi-concentrated hydrochloric acid while cooling with an ice-bath. Thereafter, the reaction mixture was poured into 1.5 l of water, stirred at room temperature for 10 minutes and then suction filtered. The residue was washed neutral with water and dried in vacuo at 60° C., whereby 10.3 g (98.5%) of 4'-[trans-4-(4-pentenyl)cyclohexyl]-4-biphenylcarboxylic acid were obtained as colourless crystals.

reactant | 4'-[trans-4-(4-pentenyl)cyclohexyl]-4-biphenylcarbonitrile | 9.88 g | C(CCC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C24H27N
reactant | diethylene glycol | 735 ml | C(COCCO)O | C4H10O3
reactant | potassium hydroxide | 79.9 g | [OH-].[K+]
reactant | hydrochloric acid | 230 ml | Cl | ClH
solvent | water | 1.5 l | O | H2O
product | 4'-[trans-4-(4-pentenyl)cyclohexyl]-4-biphenylcarboxylic acid | 10.3 g, 98.5% | C(CCC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H28O2
